US07414063B2
[3-(2-benzyl-4-chloro-phenoxy)-propyl]-[bis-(4-methoxy-phenyl)-methyl]-amine
1,1-di(p-anisyl)methylamine (2.06 g, 8.48 mmol) is added to a stirred solution of 2-benzyl-1-(3-bromo-propoxy)-4-chloro-benzene (2.40 g, 7.07 mmol) and diisopropylethylamine (1.85 mL, 10.6 mmol) in anhydrous 1,4-dioxane (10 mL) at ambient temperature under nitrogen. The mixture is heated at 95° C. for 24 hours. At ambient temperature, EtOAc (100 mL) and half-saturated aqueous NaHCO3 solution (60 mL) are added to the mixture. The organic layer is separated, dried over MgSO4, filtered and concentrated. The crude product is chromatographed on silica (gradient 5-12% EtOAc in hexane) to give 3.08 g (6.13 mmol, 87% yield) of the title compound as oil. ESIMS: m/z 502 [(M+H)+, 35Cl], 504 [(M+H)+, 37Cl].

reactant | 1,1-di(p-anisyl)methylamine | 8.48 mmol, 2.06 g | C(C1=CC=C(C=C1)OC)C(CC1=CC=C(C=C1)OC)N | C17H21NO2
reactant | 2-benzyl-1-(3-bromo-propoxy)-4-chloro-benzene | 7.07 mmol, 2.40 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)OCCCBr | C16H16BrClO
reactant | diisopropylethylamine | 10.6 mmol, 1.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | [3-(2-benzyl-4-chloro-phenoxy)-propyl]-[bis-(4-methoxy-phenyl)-methyl]-amine | 6.13 mmol, 3.08 g, 87% yield | C(C1=CC=CC=C1)C1=C(OCCCNC(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C=CC(=C1)Cl | C31H32ClNO3
